US06344476B1
To a solution of methyl 3-amino-5-tert-butylpyrrole-2-carboxylate (12 mg, 0.062 mmol) and anh. pyridine (0.25 mL, 3.06 mmol, 49.4 equiv) in anh. toluene (1 mL) was rapidly added phosgene (1.93M in toluene, 0.32 mL, 0.62 mmol, 10 equiv). After 30 min, the orange suspension was concentrated under reduced pressure, then successively charged with anh. toluene (1 mL) and concentrated (2×). Finally, toluene (2 mL) was added followed by p-toluidine (10 mg, 0.094 mmol). The mixture was heated at 90° C. for 3 h, then was concentrated under reduced pressure. The residue was purified by preparative TLC (2 plates, 20×20 cm×0.25 mm, 2% MeOH/CH2Cl2). The major UV-active band was isolated and the product was extracted from the silica using 5% MeOH/CH2Cl2 to give N-(2-carbomethoxy-5-tert-butyl-3-pyrrolyl)-N′-(4-methylphenyl)urea as a pale yellow amorphous solid (0.016 g, 80%): 1H NMR (d6-DMSO ) δ1.23 (s, 9H), 2.20 (s, 3H), 3.78 (s, 3H), 6.54 (d, J=3.0 Hz, 1H), 7.04 (d, J=8.5 Hz, 2H), 7.32 (d, J=8.5 Hz, 2H), 8.61 (s, 1H), 9.51 (s, 1H), 10.85 (br d, J=2.2 Hz, 1H); 13C NMR (MeOD, CDCl3, partial spectrum) δ19.7, 29.0 (3C), 31.5, 50.0, 97.4, 105.9, 119.6 (2C), 128.9 (2C), 132.2, 136.2, 147.6, 153.5, 161.9; FTIR (KBr) 3341 (s), 2947 (m), 1676 (s), 1583 (s), 1548 (s), 1456 (s), 1279 (s), 1208 (s), 1094 (s); cm−1; FAB-LRMS m/z (rel abundance) 330 (M+H, 47%).

reactant | methyl 3-amino-5-tert-butylpyrrole-2-carboxylate | 0.062 mmol, 12 mg | NC1=C(NC(=C1)C(C)(C)C)C(=O)OC | C10H16N2O2
reactant | pyridine | 3.06 mmol, 0.25 mL, 49.4 equiv | N1=CC=CC=C1 | C5H5N
reactant | phosgene | 0.62 mmol, 1.93M, 0.32 mL, 10 equiv | C(=O)(Cl)Cl | CCl2O
reactant | p-toluidine | 0.094 mmol, 10 mg | NC1=CC=C(C=C1)C | C7H9N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-carbomethoxy-5-tert-butyl-3-pyrrolyl)-N′-(4-methylphenyl)urea | 0.016 g, 80% | C(=O)(OC)C=1NC(=CC1NC(=O)NC1=CC=C(C=C1)C)C(C)(C)C | C18H23N3O3
